US09227973B2
Step B: (2R)-5′-Cyano-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxylic acid
Argon was bubbled through a stirred mixture of (2R)-5′-bromo-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxylic acid (433 mg, 1.21 mmol), zinc cyanide (205 mg, 1.75 mmol), and zinc (31 mg, 0.47 mmol) in N,N-dimethylacetamide (10 mL) for 10 min. To the resulting mixture was added tris(dibenzylideneacetone)dipalladium(0) (27 mg, 0.030 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (23 mg, 0.041 mmol) and argon was bubbled through the mixture for an additional 5 min. The reaction mixture was heated at 120° C. for 4 h, cooled to ambient temperature, and partitioned between EtOAc (100 mL) and 1 N aqueous hydrochloric acid (100 mL). The organic layer was washed with brine, then dried over sodium sulfate, filtered, and concentrated to dryness in vacuo. The residue was dissolved in a minimal volume of DMF and H2O was added to produce a precipitate. The precipitate was isolated by filtration, washing with H2O, and dried to give the title compound. MS: m/z=306.0 (M+1); 1H NMR (400 MHz, DMSO-d6) δ 12.81 (br s, 1H), 11.68 (s, 1H), 8.59 (d, 1H, J=1.9 Hz), 7.86-7.83 (m, 2H), 7.80 (dd, 1H, J=2.0, 0.5 Hz), 7.39 (d, 1H, J=8.3 Hz), 3.42-3.29 (m, 4H).

reactant | (2R)-5′-bromo-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxylic acid | 1.21 mmol, 433 mg | BrC=1C=C2C(=NC1)NC([C@@]21CC2=CC=C(C=C2C1)C(=O)O)=O | C16H11BrN2O3
reactant | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
catalyst | zinc cyanide | 1.75 mmol, 205 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc | 0.47 mmol, 31 mg | [Zn] | Zn
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.030 mmol, 27 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.041 mmol, 23 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (2R)-5′-Cyano-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxylic acid | C(#N)C=1C=C2C(=NC1)NC([C@@]21CC2=CC=C(C=C2C1)C(=O)O)=O | C17H11N3O3
